US07435837B2
To a solution of 3-bromo-2′,6′-dichloro-5-fluoro-2-methoxy-biphenyl (2.2 g, 6.3 mmol) in anhydrous tetrahydrofuran at 0° C. was added isopropylmagnesium chloride (3.45 ml, 2.0 M in hexane) and the resulting mixture was allowed to stir at 0° C. for 4 h. The reaction mixture was cooled to −30° C. and copper(I) cyanide (0.28 g, 3.1 mmol) in tetrahydrofuran was added and the reaction mixture was allowed to stir at −30° C. for 1 h. Benzyl(S)-(+)-glycidyl ether (0.48 ml, 3.1 mmol) was then added at −30° C. and the reaction mixture was allowed to warm to room temperature for 12 h. The solvent was removed in vacuo and purification by flash column chromatography (silica, ethyl acetate:hexanes 3:7) provided 1.28 g (94%) of (S)-1-benzyloxy-3-(2′,6′-dichlor-5-fluoro-2-methoxybiphenyl-3-yl)propan-2-ol as a colorless oil. HRMS ESI m/e 435.0946 [M−H]−, Calc'd 435.0930; [α]D25=+2.8 (c 8.14 in dimethylsulfoxide).

reactant | 3-bromo-2′,6′-dichloro-5-fluoro-2-methoxy-biphenyl | 6.3 mmol, 2.2 g | BrC=1C(=C(C=C(C1)F)C1=C(C=CC=C1Cl)Cl)OC | C13H8BrCl2FO
reactant | isopropylmagnesium chloride | 2.0 M, 3.45 ml | C(C)(C)[Mg]Cl
reactant | copper(I) cyanide | 3.1 mmol, 0.28 g | [Cu]C#N
reactant | Benzyl(S)-(+)-glycidyl ether | 3.1 mmol, 0.48 ml | C([C@@H]1CO1)OCC1=CC=CC=C1 | C10H12O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (S)-1-benzyloxy-3-(2′,6′-dichlor-5-fluoro-2-methoxybiphenyl-3-yl)propan-2-ol | 1.28 g, 94% | C(C1=CC=CC=C1)OC[C@H](CC=1C(=C(C=C(C1)F)C1=C(C=CC=C1Cl)Cl)OC)O | C23H21Cl2FO3
